US04107175
A. 5-chloro-N-phenyl-1,3-benzodithiol-2-imine
Phenylisothiocyanate (8.8g) and 5-chloro-1,2,3-benzothiadiazole (3.75g) are combined under an inert atmosphere and heated at 220° C until nitrogen evolution ceases. Initial purification of the product is accomplished by dry column chromatography (600g alumina column, benzene solvent). The product is further purified with a methylene chloride wash and recrystallization (twice) from pentane to yield 1.5g of the title compound, melting point 71°-73° C.

reactant | Phenylisothiocyanate | 8.8g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 5-chloro-1,2,3-benzothiadiazole | 3.75g | ClC=1C=CC2=C(N=NS2)C1 | C6H3ClN2S
product | 5-chloro-N-phenyl-1,3-benzodithiol-2-imine | 1.5g | ClC1=CC2=C(SC(S2)=NC2=CC=CC=C2)C=C1 | C13H8ClNS2
